US04540699
(viii) 2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one
2-(5-Methyl-4-imidazolylmethylthio)ethylamine (1.37 g) and 2-nitroamino-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (2.39 g) were refluxed in pyridine (12 ml) for 17 hours. The reaction mixture was evaporated under reduced pressure and the residue washed with hot water. The mixture was allowed to cool and the water was decanted to give the title compound as a residue. Ethanolic HCl was added with warming and on subsequent cooling the trihydrochloride salt of 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one was obtained as a solid (2.50 g); recrystallisation from ethanolic HCl afforded material, m.p. 170°-173.5° C.

reactant | 2-(5-Methyl-4-imidazolylmethylthio)ethylamine | 1.37 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | 2-nitroamino-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 2.39 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CCCC)=O | C14H17N5O4
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CCCC)=O | C21H28N6O2S
